US07871998B2
(2R)-3-(4-cyanophenyl)-2-{[({[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}amino)acetyl]amino}propanoic acid
(2R)-3-(4-cyanophenyl)-2-{[({[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}amino}acetyl]amino)propanoic acid (0.006 g, 0.0084 mmole) was dissolved in methanol (1.5 ml). NaBH4 (0.0035 g, 0.092 mmole) was added and when the reaction was complete according to LC-MS a few drops of acetic acid was added. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC on a Kromasil C8-column using a stepwise gradient of 33.5%, 43% and then 55.5% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.005 g (83%) of the desired product was obtained.

reactant | (2R)-3-(4-cyanophenyl)-2-{[({[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}amino}acetyl]amino)propanoic acid | 0.0084 mmole, 0.006 g | C(#N)C1=CC=C(C=C1)C[C@H](C(=O)O)NC(CNC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(=O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)=O)=O | C37H30F2N4O7S
reactant | NaBH4 | 0.092 mmole, 0.0035 g | [BH4-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (2R)-3-(4-cyanophenyl)-2-{[({[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}amino)acetyl]amino}propanoic acid | 0.005 g, 83% | C(#N)C1=CC=C(C=C1)C[C@H](C(=O)O)NC(CNC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)=O)=O | C37H32F2N4O7S
